US09255089B2
To 2-bromopyridine (0.02 ml, 0.2 mmol) in tetrahydrofuran (4 mL) at −78° C. was added n-butyllithium (0.15 mL, 0.24 mmol, 1.6 M in hexanes). After 30 minutes, tert-butyl 4-(5-chloropicolinoyl)-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate (33 mg, 0.07 mmol) in tetrahydrofuran (1 mL) was added drop-wise to the reaction. After 30 minutes, the reaction was warmed, quenched with saturated NH4Cl(aq) (10 mL), extracted with ethyl acetate (3×10 mL), dried over Na2SO4, and concentrated in vacuo. To the crude residue in ethanol (3 mL) was added hydrochloric acid (0.17 mL, 0.66 mmol, 4 M in 1,4-dioxane) and the mixture was heated to 70° C. in a microwave reactor for 45 minutes. Purification by reverse-phase HPLC (23-40% acetonitrile/water with 0.01% trifluoroacetic acid, Gemini C18 5μ) afforded 4-((5-chloropyridin-2-yl)(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one as an off-white solid.

reactant | 2-bromopyridine | 0.2 mmol, 0.02 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 0.24 mmol, 1.6 M, 0.15 mL | C(CCC)[Li]
reactant | tert-butyl 4-(5-chloropicolinoyl)-6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazole-1-carboxylate | 0.07 mmol, 33 mg | ClC=1C=CC(=NC1)C(=O)C1=CC(=CC=2N(C(=NC21)OCC)C(=O)OC(C)(C)C)C=2C(=NOC2C)C | C25H25ClN4O5
reactant | hydrochloric acid | 0.66 mmol, 4 M, 0.17 mL | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-((5-chloropyridin-2-yl)(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | ClC=1C=CC(=NC1)C(C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C)(C2=NC=CC=C2)O | C23H18ClN5O3
